US04097472
A solution of 2.8 g of ethyl 1-[N2 -(6-methoxy-2-naphthylsulfonyl)-L-arginyl]-2-piperidinecarboxylate in 15 ml of methanol and 10 ml of 2N-NaOH solution was warmed to 60° C and held at that temperature for 10 hours. At the end of this period, the reaction mixture was concentrated and chromatographed on 200 ml of Daiaion ® SK 102 ion exchange resin (200 - 300 mesh, H+ form, manufactured by Mitsubishi Chemical Industries Limited) packed in water, washed with ethanol-water (1:4) and eluted with ethanol-water-NH4OH (10:9:1). The main fraction was evaporated to dryness and washed with ethyl ether to give 2.0 g of 1-[N2 -(6-methoxy-2-naphthylsulfonyl)-L-arginyl]-2-piperidinecarboxylic acid as an amorphous solid. I.R. (KBr): 3,200 (broad), 1,620, 1,150 cm-1.

reactant | ethyl 1-[N2 -(6-methoxy-2-naphthylsulfonyl)-L-arginyl]-2-piperidinecarboxylate | 2.8 g | COC=1C=C2C=CC(=CC2=CC1)S(=O)(=O)N[C@@H](CCCNC(N)=N)C(=O)N1C(CCCC1)C(=O)OCC | C25H35N5O6S
reactant | NaOH | [OH-].[Na+]
solvent | methanol | 15 ml | CO | CH4O
product | 1-[N2 -(6-methoxy-2-naphthylsulfonyl)-L-arginyl]-2-piperidinecarboxylic acid | 2.0 g | COC=1C=C2C=CC(=CC2=CC1)S(=O)(=O)N[C@@H](CCCNC(N)=N)C(=O)N1C(CCCC1)C(=O)O | C23H31N5O6S
